US07897607B2
1-Benzyl-5-(2,4-dimethylphenyl)-3-methylcinnolin-4(1H)-one
To 0.115 g (0.40 mmol) of 1-benzyl-5-chloro-3-methylcinnolin-4(1H)-one, 0.12 g (0.81 mmol) of cesium fluoride and 0.093 g (0.08 mmol) of tetrakis(triphenylphosphine)palladium(0) was added 4 mL of dimethoxyethane. The dark brown mixture was stirred at room temperature for 15 min. then 0.079 g (0.53 mmol) of 2,4-dimethylphenylboronic acid was added. This mixture was then heated to reflux for 5 h, cooled to room temperature, diluted with ethyl acetate and filtered through a plug of silica gel. The resulting filtrate was concentrated and the residue was purified by flash chromatography eluting with a 17% ethyl acetate/hexanes mixture to give 0.102 g (71%) of the title compound as a light yellow solid.

reactant | 1-benzyl-5-chloro-3-methylcinnolin-4(1H)-one | 0.40 mmol, 0.115 g | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)C | C16H13ClN2O
reactant | cesium fluoride | 0.81 mmol, 0.12 g | [F-].[Cs+]
reactant | dimethoxyethane | 4 mL | C(OC)COC | C4H10O2
reactant | 2,4-dimethylphenylboronic acid | 0.53 mmol, 0.079 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 0.093 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Benzyl-5-(2,4-dimethylphenyl)-3-methylcinnolin-4(1H)-one | 0.102 g, 71% | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)C1=C(C=C(C=C1)C)C)=O)C | C24H22N2O
